balancedNoisyNetwork

.detector V_outP V_outN

R3 2 0 R value={R_c} noisetemp={T}
R2N 2 outN R value={R_b} noisetemp={T}
R2P outP 2 R value={R_b} noisetemp={T}
R1N outN inN R value={R_a} noisetemp={T}
R1P outP inP R value={R_a} noisetemp={T}
E2 3 0 outN 0 E value={0.5}
E1 CM 3 outP 0 E value={0.5}
V1N 1 inN V value={V_b} noise={S_vb}
V1P inP 1 V value={V_a} noise={S_va}
I1 1 0 I value={I_s}
C1 outP outN C value={C_a}
C2 1 0 C value={C_b}

.end