bigAmp
.subckt bigAmp inP inN outP outN A_i=30 R_o=30
.lib smallAmp.lib
R1 inP inN R value={R_i} noisetemp=0 noiseflow=0 dcvar=0 dcvarlot=0
X1 inP inN 1 0 smallAmp A_v={A_i} r_o=40
X2 1 0 outP outN smallAmp A_v=10 r_o={R_o}
.ends
.end