myBJTamp
.subckt myBJTamp in out ref
.model myQ QV gm={g_m} go={g_o} gpi={g_m/beta_AC}
Q1 out in ref ref myQ
R1 in out R value={R_f} noisetemp=0 noiseflow=0 dcvar=0 dcvarlot=0
.ends
.end