smallAmp
.subckt smallAmp inP inN outP outN A_v={A} r_o={R}
E1 1 outN inP inN E value={A_v}
R1 1 outP R value={r_o} noisetemp=0 noiseflow=0 dcvar=0 dcvarlot=0
.ends
.end