"LowPassLR"
* SPICE file generated by spice-noqsi version 20181225
* Send requests or bug reports to jpd@noqsi.com
V1 1 0 V value=1 dc=0 dcvar=0 noise=0
R1 out 0 R value={R} noisetemp=0 noiseflow=0 dcvar=0 dcvarlot=0
L2 2 out L value={L_b*R} iinit=0
L1 1 2 L value={L_a*R} iinit=0
C2 out 0 C value={C_b/R} vinit=0
C1 2 0 C value={C_a/R} vinit=0
.detector V_out
.source V1
.param R=6
.end
